US07309703B2
A. 1-[3-(4-Chloro-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone
To a stirred solution of 50 g (0.35 mol) of N-acetyl-4-piperidone and 31 g (0.35 mol) of morpholine in benzene (350 mL) was added a catalytic amount (˜0.25 g) of p-toluenesulfonic acid. The mixture was heated to reflux for 10 h with a Dean-Stark trap. The solvent was removed under reduced pressure to give a brown oil. The crude product was diluted with CH2Cl2 (175 mL) and 50.0 mL (0.35 mol) of Et3N was added. The mixture was cooled to 0° C. and a solution of 45.0 mL (0.35 mol) of 4-chlorobenzoyl chloride in CH2Cl2 (50 mL) was added slowly by dropping funnel over 1 h. The mixture was allowed to warm to room temperature and stirred overnight. The reaction was then diluted with 1 N HCl (150 mL) and stirred vigorously for 3 h. The aqueous layer was extracted with CH2Cl2 (3×250 mL) and the combined extracts were dried over Na2SO4 and the solvent was removed under reduced pressure. The crude oil was diluted with EtOH (350 mL) and cooled to 0° C. To this stirred solution was slowly added 33.0 mL (1.06 mol) of hydrazine and the mixture was allowed to warm to room temperature and stir overnight during which time a white precipitate formed. The volume of the reaction was reduced to ˜150 mL and EtOAc (750 mL) was added to the mixture. The suspension was stirred vigorously for 2 h and was filtered then washed with EtOAc (2×200 mL) and dried under vacuum to afford 41.4 g (42% over 3 steps) of a pale yellow solid. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.3. MS (electrospray), m/z calculated for C14H14ClN3O [M+H]+ 276.08, observed 276.0. 1H NMR (400 MHz, CDCl3, a mixture of amide rotamers): 7.65 (d, J=8.4 Hz, 2H), 7.64 (d, J=9.3 Hz, 2H), 7.58 (d, J=10.5 Hz, 2H), 7.55 (d, J=8.5 Hz, 2H), 4.94 (s, 2H), 4.78 (s, 2H), 4.08 (t, J=5.9 Hz, 2H), 3.90 (t, J=5.8 Hz, 2H), 3.02 (t, J=5.8 Hz, 2H), 2.96 (t, J=5.9 Hz, 2H), 2.36 (s, 3H), 2.31 (s, 3H).

reactant | N-acetyl-4-piperidone | 0.35 mol, 50 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | morpholine | 0.35 mol, 31 g | N1CCOCC1 | C4H9NO
reactant | p-toluenesulfonic acid | ˜0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Et3N | 0.35 mol, 50.0 mL | CCN(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.35 mol, 45.0 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | hydrazine | 1.06 mol, 33.0 mL | NN | H4N2
solvent | benzene | 350 mL | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | 175 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1 N, 150 mL | Cl | ClH
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | EtOAc | 750 mL | CCOC(=O)C | C4H8O2
product | 1-[3-(4-Chloro-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | ClC1=CC=C(C=C1)C1=NNC2=C1CN(CC2)C(C)=O | C14H14ClN3O
